US08168794B2
To a solution of (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol (1.0 equiv.) in pyridine and ammonium hydroxide (8:1, 0.08 M) was added trimethylphosphine (3.0 equiv.) and the brown solution was stirred at room temperature for 2 h. Upon completion, EtOH was added and the solution was concentrated in vacuo. More ethanol was added and the reaction was concentrated again. Dioxane and sat. NaHCO3 (1:1, 0.08M) were added to the crude, followed by Boc2O (1.0 equiv.). Stirred the reaction mixture at room temperature for 2 h, then added water and ethyl acetate. The organic phase was dried with MgSO4, and concentrated. The crude product was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to afford (+/−)-tert-butyl 6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate (59%). LC/MS=350.1 (M+H), Rt: 0.76 min.

reactant | (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol | 1.0 equiv. | N(=[N+]=[N-])C1C(C(CC(=C1)C1=C(C=NC=C1)[N+](=O)[O-])C)O | C12H13N5O3
reactant | trimethylphosphine | 3.0 equiv. | CP(C)C | C3H9P
reactant | EtOH | CCO | C2H6O
reactant | Boc2O | 1.0 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ammonium hydroxide | 0.08 M | [OH-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (+/−)-tert-butyl 6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 59% | OC1C(CC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-])C | C17H23N3O5
